US07612075B2
A. 7-Chloro-3-methyl-isoquinoline.
To a solution of 1,7-dichloro-3-methyl-isoquinoline (0.50 g, 2.36 mmol), Example 10, part C, in 5.5 mL of 9:1 acetic acid:H2O at 75° C. is added zinc (0.23 g, 3.54 mmol) After 75 minutes, the solution is cooled to ambient temperatures. The solution is diluted with a 4:1 EtOAc:CH2Cl2 solution. To the solution is added 100 mL of a 1N NaOH solution. The aqueous solution is extracted with 4:1 EtOAc:CH2Cl2. The combined organic layers are washed with a saturated NaCl solution. The organic layer is dried over MgSO4, filtered and concentrated. The crude product is purified by column chromatography eluting with a gradient of 5% EtOAc/hexanes to 15% EtOAc/hexanes. The title compound is obtained as a white solid (0.36 g, 1.97 mmol). 1H NMR (CDCl3, 300 MHz) δ9.09 (s, 1H), 7.89 (s, 1H), 7.61 (d, 1H), 7.55 (d, 1H), 7.44 (s, 1H) 2.68 (s, 3H). MS (EI): m/z 177, 179 (M+), Cl pattern.

reactant | 1,7-dichloro-3-methyl-isoquinoline | 2.36 mmol, 0.50 g | ClC1=NC(=CC2=CC=C(C=C12)Cl)C | C10H7Cl2N
reactant | H2O | O | H2O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | NaOH | 1N | [OH-].[Na+]
solvent | acetic acid | 5.5 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | zinc | 3.54 mmol, 0.23 g | [Zn] | Zn
product | 7-Chloro-3-methyl-isoquinoline | ClC1=CC=C2C=C(N=CC2=C1)C | C10H8ClN
